US08471005B2
Pyrrolidine (1.15 mL, 13.8 mmol) was added to 1-(2-Hydroxy-4-methoxy-5-nitro-phenyl)-ethanone (2.57 g, 12.2 mmol) (Banks, C. K.; Hamilton, C. S. J. Am. Chem. Soc. 1938, 60, 1370) and 1-Methyl-piperidin-4-one (1.60 mL, 13.0 mmol) in Methanol (50.0 mL) and the reaction was stirred under an atmosphere of nitrogen. After overnight stirring, ˜50% conversion was achieved. The mixture was heated at 50° C. for 30 h. Following basic workup, the crude material was purified on ISCO (0-12% MeOH:DCM) to afford 7-methoxy-1′-methyl-6-nitrospiro[chromene-2,4′-piperidin]-4-((3H)-one (2.42 g; Yield=64.9%).

reactant | Pyrrolidine | 13.8 mmol, 1.15 mL | N1CCCC1 | C4H9N
reactant | 1-(2-Hydroxy-4-methoxy-5-nitro-phenyl)-ethanone | 12.2 mmol, 2.57 g | OC1=C(C=C(C(=C1)OC)[N+](=O)[O-])C(C)=O | C9H9NO5
reactant | 1-Methyl-piperidin-4-one | 13.0 mmol, 1.60 mL | CN1CCC(CC1)=O | C6H11NO
solvent | Methanol | 50.0 mL | CO | CH4O
product | 7-methoxy-1′-methyl-6-nitrospiro[chromene-2,4′-piperidin] | 2.42 g, Yield=64.9% | COC1=C(C=C2C=CC3(CCN(CC3)C)OC2=C1)[N+](=O)[O-] | C15H18N2O4
